*****************************************************************************
* EPC23101: 100V, 65A ePower Chipset Simulation Model File 
* (C) Copyright Efficient Power Conversion Corporation. All rights reserved.
*****************************************************************************
* Version History:
*   1.0:    6/20/2022   First release
*   2.0:    6/29/2022   Simplified switch node rise/fall time sub-circuit

.subckt epc23101 ENb HSIN LSIN VDRV VSS LGOUT RBOOT RDRV SW VBOOT VDD VIN
XX1 N008 N010 N011 N012 VSS N006 N007 atlock
XX2 HSIN N010 N008 VDD VSS logictrans
XX3 LSIN N012 N011 VDD VSS logictrans
XX4 VDD VSS N015 por
XX5 N007 VSS N013 inv5
XX6 N013 N015 N014 VSS nor2
XU1 VIN HSG SW pwr_fet
XX9 LGOUT VDD VSS ls_scur
XX10 N007 N009 VDD VSS VBOOT cboot
E1 N001 SW N006 VSS 1
XX11 VBOOT SW N005 por
XX12 N001 SW N002 inv5
XX13 N002 N005 N003 SW nor2
XX16 HSG SW VBOOT hs_scur
XX18 Enb VDRV VSS VDD enb_logic
XX8 N009 RDRV VDD VSS LGOUT ls_rf_ctrl
R1 SW VSS 60k
XX17 Enb SW VIN VSS vin_scur
XX19 N014 N009 VSS delay_ls
XX7 N003 N004 SW delay_hs
XX14 N004 RBOOT SW VBOOT HSG hs_rf_ctrl
.ends epc23101

.subckt atlock HSi HSib LSi LSib Vss HSo LSo
XX1 HSi N001 Vss delay_5n
XX2 LSi N002 Vss delay_5n
XX3 N002 HSib HSo Vss nor2
XX4 N001 LSib LSo Vss nor2
.ends atlock

.subckt logictrans In OutN OutP Vdd Vss
C1 In Vss 6p
R1 N001 N002 30.4k
R2 N002 Vss 6.5k
R3 N002 In 70
V1 N005 Vss 5
S1 Vss N003 N004 Vss S1_Model
R4 N004 N005 10k
R5 N003 N005 10k
E1 N001 Vss Vdd Vss 1
S2 Vss N004 N002 Vss S2_Model
E2 OutP Vss N003 Vss 1
E3 OutN Vss N004 Vss 1
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=1.6 Vh=500m
.ends logictrans

.subckt por Vdd Vss POR
E1 POR Vss N002 Vss 1
S1 Vss N002 Vdd Vss S2_Model
V1 N001 Vss 5
R1 N001 N002 10k
.MODEL S2_Model sw  Vt=3.75 Vh=0.25 Ron=1 Roff=1e6
.ends por

.subckt inv5 A Vss Q
V1 N001 Vss 5
S1 Vss N002 A Vss S2_Model
R1 N001 N002 10k
E1 Q Vss N002 Vss 1
.MODEL S2_Model sw  Vt=2.5 Vh=0
.ends inv5

.subckt nor2 A B Q Vss
S1 Vss N001 B Vss S1_Model
S2 Vss N001 A Vss S2_Model
V1 P001 Vss 5
R1 N001 P001 10k
E1 Q Vss N001 Vss 1
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends nor2

.subckt ls_scur LSG Vdd Vss
S2 N1 Vss N001 LSG S2_Model
S1 N001 N1 LSG N001 S1_Model
V1 N001 Vss 5
R1 Vdd Vss 500
R2 N1 Vss 463
F1 Vdd Vss V1 -1
.MODEL S1_Model sw Ron=1 Roff=10MEG Vt=-2.5 Vh=0
.MODEL S2_Model sw Ron=1 Roff=10MEG Vt=2.5 Vh=0
.ends ls_scur

.subckt cboot A B Vdd Vss Vboot
S1 Vss N004 B Vss S1_Model
S2 N004 N003 A Vss S2_Model
S3 Vss N002 N003 Vss S3_Model
V1 N001 Vss 5
R4 N001 N003 10k
R5 N001 N002 10k
S4 Vboot Vdd N002 Vss S4_Model
.MODEL S1_Model sw Ron=5 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=5 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=5 Roff=10MEG Vt=2.5 Vh=0
.MODEL S4_Model sw Ron=12.5 Roff=10MEG Vt=2.5 Vh=0
.ends cboot

.subckt hs_scur HSG SW Vboot
F1 Vboot SW V1 -1
S2 SW N1 HSG SW S2_Model
S1 N1 N001 N001 HSG S1_Model
V1 N001 SW 5
R1 Vboot SW 833
C1 N1 SW 2.8n
.MODEL S1_Model sw Ron=2 Roff=10MEG Vt=2.5 Vh=0
.MODEL S2_Model sw Ron=2 Roff=10MEG Vt=2.5 Vh=0
.ends hs_scur

.subckt enb_logic ENb VDRV VSS VDD
R1 ENb VSS 150k
S2 VSS VDD ENb VSS Enbsw
S1 VDRV VDD VSS ENb Enbsw_nc
S3 N001 VDRV ENb VSS Enbsw
R2 N001 VSS 125k
.MODEL Enbsw_nc sw Vt=-3.3 Ron=1e-3 Roff=1e6
.MODEL Enbsw sw Vt=3.3 Ron=1e-3 Roff=1e6
.ends enb_logic

.subckt ls_rf_ctrl A RDRV Vdd Vss Q
S2 Vss N002 N001 Vss S2_Model
S1 N002 RDRV Vdd N001 S1_Model
XX1 A Vss N001 inv5
R1 Q N002 0.1
.MODEL S1_Model sw Ron=0.4 Roff=1MEG Vt=2.4 Vh=0
.MODEL S2_Model sw Ron=0.25 Roff=1MEG Vt=2.4 Vh=0
.ends ls_rf_ctrl

.subckt vin_scur ENb SW Vin Vss
R1 Vin SW 1Meg
S1 P001 Vin ENb Vss Enbsw
R3 P001 Vss 88k
.MODEL Enbsw sw Vt=3.3 Ron=1e-3 Roff=1e9
.ends vin_scur

.subckt delay_ls A Q Vss
S2 Vss N003 N002 Vss S2_Model
S1 Vss N002 A Vss S1_Model
S3 Vss N004 N003 Vss S3_Model
S4 Vss N005 N004 Vss S4_Model
E1 Q Vss N005 Vss 1
C1 N002 Vss 1.4p
R2 N003 N001 10k
R1 N002 N001 10k
C2 N003 Vss 1.7p
V1 N001 Vss 5
R3 N001 N004 10k
R4 N001 N005 10k
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S4_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends delay_ls

.subckt delay_hs A Q Vss
S2 Vss N003 N002 Vss S2_Model
S1 Vss N002 A Vss S1_Model
S3 Vss N004 N003 Vss S3_Model
S4 Vss N005 N004 Vss S4_Model
E1 Q Vss N005 Vss 1
C1 N002 Vss 1.3p
R2 N003 N001 10k
R1 N002 N001 10k
C2 N003 Vss 1.4p
V1 N001 Vss 5
R3 N001 N004 10k
R4 N001 N005 10k
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S4_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends delay_hs

.subckt hs_rf_ctrl A RBOOT SW VBOOT Q
C1 Vctrl SW 3p
R1 Vctrl N002 3k
E1 RBOOT Q VBOOT Vctrl 1
E2 N001 SW VBOOT SW 1
XX1 A N001 SW N002 buffer
.ends hs_rf_ctrl

.subckt delay_5n A Q Vss
S1 Vss N003 N002 Vss S1_Model
S2 Vss N002 A Vss S2_Model
S3 Vss N004 N003 Vss S3_Model
S4 Vss N005 N004 Vss S4_Model
E1 Q Vss N005 Vss 1
C1 N002 Vss 500f
R1 N003 N001 10k
R2 N002 N001 10k
C2 N003 Vss 500f
V1 N001 Vss 5
R3 N001 N004 10k
R4 N001 N005 10k
.MODEL S1_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S2_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.MODEL S3_Model sw Ron=10 Roff=10MEG Vt=3.16 Vh=0
.MODEL S4_Model sw Ron=10 Roff=10MEG Vt=2.5 Vh=0
.ends delay_5n

.subckt buffer A Vdd Vss Q
S1 Vss N001 A Vss S2_Model
S2 Vss Q N001 Vss S2_Model
S3 N001 Vdd Vdd A S2_Model
S4 Q Vdd Vdd N001 S2_Model
.MODEL S2_Model sw  Vt=2.5 Vh=0
.ends buffer

.subckt pwr_fet drainin gate sourcein
.param W=1.738 Wg={W*1000000}
.param  si={aWg} so={aWg} sr={aWg}
.param  aWg={Wg*1E-3} A1={1.698e-02*aWg} k2=2.138e+00 k3=9.000e-02 rpara={1.74e-3/W}
+	rpara_s_factor=2.759e-01 aITc=3.6390e-03 arTc=-9.1547e-03 k2Tc=3.7300e-4
+	x0_0=2.269e+00 x0_0_TC=-1.6300e-03 x0_1=-2.000e-12 x0_1_TC=-8.5200e-7
+	dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
+	ags1={1.188e-12*si}
+   ags2={4.370e-13*si} ags3=1.899e+00  ags4=2.039e-01
+	ags5={0.000e-00*si} ags6=7.480e+01  ags7=1.055e+01
+	agd1={1.940e-15*sr}
+   agd2={8.0e-14*sr}   agd3=-7.500e+00 agd4=2.157e+00
+	agd5={7.790e-15*sr} agd6=-1.726e+01 agd7=1.529e+01
+   agd8={0.000e-00*sr} agd9=-3.326e+01 agd10=8.900e-01
+	asd1={3.599e-13*so}
+   asd2={6.070e-13*so} asd3=-1.035e+01 asd4=1.086e+00
+	asd5={2.540e-13*so} asd6=-2.500e+01 asd7=5.616e+00
+   asd8={0.000e-00*so} asd9=-8.125e+01 asd10=5.665e+00

rd drainin drain {(1-rpara_s_factor)*rpara*(1-arTc*(Temp-25))}
rs sourcein source {rpara_s_factor*rpara*(1-arTc*(Temp-25))}

*Large resistors to aid convergence
rcsdconv drain source {100000Meg/aWg}
rcgsconv gate source {100000Meg/aWg}
rcgdconv gate drain {100000Meg/aWg}

bswitch drain source I=(if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 + (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,source))*v(drain,source)) ),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 + (x0_0*(1-x0_0_TC*(Temp-25))+x0_1*(1-x0_1_TC*(Temp-25))*v(gate,drain))*v(source,drain)) ) ))

bgsdiode gate source I=(if( v(gate,source) < 10,
+	0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1)),
+	0.125*aWg/1077*(dgs1*(exp((10)/dgs3)-1)+dgs2*(exp((10)/dgs4)-1)) ))

bgddiode gate drain I=(if( v(gate,drain) < 10,
+	0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1)),
+	0.125*aWg/1077*(dgs1*(exp((10)/dgs3)-1)+dgs2*(exp((10)/dgs4)-1)) ))

cgs gate source {ags1}
cgsv gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)))

cgd gate drain {agd1}
cgdv gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+	agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+	agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))

csd source drain {asd1}
csdv source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7))+
+	asd8*asd10*log(1+exp((v(source,drain)-asd9)/asd10)))

.ends