* C:\Users\conor\Documents\College\Masters\Thesis\GeecPE2526\Simulation\EPC23102\EPC23102_Behavioral_Model_LTSPICE\EPC23102_sim.asc
* Generated by LTspice 24.1.8 for Windows.
VHSin HSin 0 PULSE(0 3.3 5u 1n 1n 8.25u 33u)
VLSin LSin 0 PULSE(0 3.3 13.4u 1n 1n 24u 33u)
L1 SW VDC 73µ Ipk=25.6 Rser=0.0082 Rpar=0 Cpar=0
R1 VDC 0 1.5
C1 VDC 0 47µ
C2 SW Vboot 100n
VVdd5 Vdd5 0 PULSE(0 5 0.5u 10u 1n 0.9 1)
VVin Vin 0 48
X§U1 0 HSin LSin Vdd5 0 0 Vboot Vdd5 SW Vboot Vdd_int N001 EPC23102
C3 Vdd_int 0 100n
C4 N001 0 10µ Rser=1m
L2 Vin N001 100n Rser=10m
.tran 0 5m 2n 10n
.temp 25
.include EPC23102_model.net
.lib EPC23102_model.net
.backanno
.end
